US07256178B2
(2) (8E,12E,14E)-3,21-bis(diethylisopropylsiloxy)-7,16-dihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide
A 0.2M guanidine/guanidine nitrate solution (methanol-methylene chloride, 9:1)(3.9 mL, 0.78 mmol) was added to (8E,12E,14E)-7-acetoxy-3,21-bis(diethylisopropylsiloxy)-16-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (307 mg, 0.3868 mmol), and the reaction mixture was stirred at room temperature for 13 hours. The reaction mixture was diluted with ethyl acetate, and then the organic layer was washed with an aqueous solution of ammonium chloride. The resulting organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (Kanto silica gel 60N, 40 to 50 μm; ethyl acetate-hexane, 1:4) to obtain the title compound (271.5 mg, 93%) as a colorless oil.

reactant | guanidine guanidine nitrate | 0.78 mmol, 0.2M, 3.9 mL | NC(=N)N.[N+](=O)(O)[O-].NC(=N)N
reactant | (8E,12E,14E)-7-acetoxy-3,21-bis(diethylisopropylsiloxy)-16-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.3868 mmol, 307 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O[Si](C(C)C)(CC)CC)C)O1)(C)O)\C)O[Si](C(C)C)(CC)CC)C | C44H80O8Si2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-3,21-bis(diethylisopropylsiloxy)-7,16-dihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 271.5 mg, 93% | C(C)[Si](OC1CC(=O)OC(C(/C=C/C(C(CC1)C)O)C)\C(=C\C=C\C(CC1C(C(C(CC)O[Si](C(C)C)(CC)CC)C)O1)(C)O)\C)(C(C)C)CC | C42H78O7Si2
